US08455613B2
Step 1: Dimethyl 3,3′-(2,7-dibromo-9H-fluorene-9,9-diyl)dipropanoate.
2,7-Dibromofluorene (1 g, 3.1 mmol), methyl acrylate (861 mg, 10 mmol) tetrabutylammonium bromide (100 mg, 0.3 mmol) and toluene (5 mL) are added to a small round bottom flask with a Teflon-coated stirbar. Next 2 mL of 50% NaOH (aq) is added while stirring. The reaction is allowed to proceed overnight. The next day the toluene layer is transferred to a flask and the aqueous layer extracted with two portions of toluene. The organic layers are combined, dried with Mg2SO4, and filtered. Silica (2 g) is added to the filtrate and the solution is evaporated. The product is obtained as a white solid (1.23 g, 80% yield) after purification by column chromatography.

reactant | 2,7-Dibromofluorene | 3.1 mmol, 1 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | methyl acrylate | 10 mmol, 861 mg | C(C=C)(=O)OC | C4H6O2
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | Dimethyl 3,3′-(2,7-dibromo-9H-fluorene-9,9-diyl)dipropanoate | 1.23 g, 80% yield | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCC(=O)OC)CCC(=O)OC | C21H20Br2O4
